US07674912B2
1d: 4-Amino-3-fluoro-N-thiazol-2-yl-benzamide:
4-Nitro-3-fluoro-N-thiazol-2-yl-benzamide (7.5 mmol) was suspended in EtOH (abs., 60 mL) and ethyl acetate (30 mL), glacial acetic acid (5 mL) and 10% Pd/C (300 mg) was added, and the mixture was hydrogenated for 12 days under 3 bar H2. The reaction mixture was filtered and evaporated, and re-dissolved in ethyl acetate (100 mL) and NaHCO3 (sat., 60 mL). The aqueous phase was adjusted to basic pH with NaOH (1M) and the phases were separated. The organic phase was washed with brine, dried over MgSO4, filtered and evaporated.

reactant | 4-Nitro-3-fluoro-N-thiazol-2-yl-benzamide | 7.5 mmol | [N+](=O)([O-])C1=C(C=C(C(=O)NC=2SC=CN2)C=C1)F | C10H6FN3O3S
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 60 mL | CCO | C2H6O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 4-Amino-3-fluoro-N-thiazol-2-yl-benzamide | NC1=C(C=C(C(=O)NC=2SC=CN2)C=C1)F | C10H8FN3OS
